US07491729B2
3-Chloro-5-methyl-1,2-benzisoxazole (2.17 g, 12.93 mmol) was stirred together with piperazine (10.0 g, 116.1 mmol) and DBU (diazabicycloundecene; 2.0 g 13.14 mmol) in a melt at 120° C. for 4 h, after which the reaction was complete according to TLC. After cooling, the mixture was added to water, and the aqueous phase was extracted 3 times with dichloromethane, and the organic phases were washed with water, dried over magnesium sulfate and concentrated in vacuo. This resulted in 2.24 g of 3-piperazin-1-yl-5-methyl-1,2-benzisoxazole (yield: 80%) being obtained as a slightly impure solid product which was purified by chromatography.

reactant | 3-Chloro-5-methyl-1,2-benzisoxazole | 12.93 mmol, 2.17 g | ClC1=NOC2=C1C=C(C=C2)C | C8H6ClNO
reactant | piperazine | 116.1 mmol, 10.0 g | N1CCNCC1 | C4H10N2
reactant | DBU | 13.14 mmol, 2.0 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | O | H2O
product | 3-piperazin-1-yl-5-methyl-1,2-benzisoxazole | 2.24 g, yield: 80% | N1(CCNCC1)C1=NOC2=C1C=C(C=C2)C | C12H15N3O
